US07902187B2
3-(6-chloro-9-(trans-4-methoxycyclohexyl)-8-oxo-8,9-dihydro-7H-purin-2-ylamino)-4-nitrobenzonitrile.
To an oven-dried 250 mL round bottom flask was added 2-amino-6-chloro-9-(trans-4-methoxycyclohexyl)-7H-purin-8(9H)-one (crude, 3.65 g, 12.28 mmol, 1 equiv.) in anhydrous toluene (50 mL), then freshly grounded cesium carbonate (6 g, 18.43 mmol, 1.5 equiv.) with stirring at room temperature under Ar. Pd(OAc)2 (1.24 g, 1.84 mmol, 0.15 equiv.), racemic BINAP (2.67 g, 4.3 mmol, 0.35 equiv.) and 3-bromo-4-nitro-benzonitrile (3.6 g, 15.96 mmol, 1.3 eq) were all added as solids. The reaction was performed under a flow of Argon, with heating at 100° C. for two days. The reaction mixture was cooled to room temperature, then concentrated in vacuo and the resulting residue was purified using flash chromatography (silica gel, gradient elution 10% EtOAc in hexanes to 50% EtOAc in hexanes) to give the desired product as an orange solid (50% yield). MS (EI) m/z 444 (MH)+.

reactant | 2-amino-6-chloro-9-(trans-4-methoxycyclohexyl)-7H-purin-8(9H)-one | 12.28 mmol, 3.65 g, 1 equiv. | NC1=NC(=C2NC(N(C2=N1)[C@@H]1CC[C@H](CC1)OC)=O)Cl | C12H16ClN5O2
reactant | cesium carbonate | 18.43 mmol, 6 g, 1.5 equiv. | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | BINAP | 4.3 mmol, 2.67 g, 0.35 equiv. | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | 3-bromo-4-nitro-benzonitrile | 15.96 mmol, 3.6 g, 1.3 eq | BrC=1C=C(C#N)C=CC1[N+](=O)[O-] | C7H3BrN2O2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 1.84 mmol, 1.24 g, 0.15 equiv. | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-(6-chloro-9-(trans-4-methoxycyclohexyl)-8-oxo-8,9-dihydro-7H-purin-2-ylamino)-4-nitrobenzonitrile | 50% yield | ClC1=C2NC(N(C2=NC(=N1)NC=1C=C(C#N)C=CC1[N+](=O)[O-])[C@@H]1CC[C@H](CC1)OC)=O | C19H18ClN7O4
